US05595995
a) trans-1-(1-Adamantyl)-3-(3-pyridyl)-2-propen-1-one
To a stirred solution of diisopropylamine (1.54 ml, 11 mmol) in THF (40 ml) at 0° C. was added butyllithium (1.6M; 6.25 ml, 10.0 mmol) in hexane, followed after 5 minutes by 1-adamantyl methyl ketone (1.96 g, 11.0 mmol). After stirring for 30 minutes at 0° C. the resulting solution of the lithium enolate of 1-adamantyl methyl ketone was then added to a stirred solution of 3-pyridinecarboxaldehyde (0.94 ml, 10.0 mmol) in THF (12 ml) at room temperature. After 3 hours the mixture was partitioned between diethyl ether and water, and the ether layers were concentrated. Chromatography, on elution with petrol-ether-triethylamine, 100:50:1 afforded the product as a solid (1.87 g, 70%), which crystallised from hexane, m.p. 98°-101° C.; IR νmax 1679 cm-1 ; 1H-NMR (CDCl3) δ1.65-1.84 (12H, m, adamantyl CH2), 2.10 (3H, s, adamantyl CH), 7.27 (1H, d, J 15.8 Hz, COCHCH), 7.38 (1H, m, Py 5-H), 7.68 (1H, d, J 15.8 Hz, COCHCH), 7.93 (1H, m, Py 4-H), 8.55 (1H, m, Py 6-H), 8.81 (1H, m, Py 2-H); MS m/z 267 (M+).

reactant | diisopropylamine | 11 mmol, 1.54 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 10.0 mmol, 1.6M, 6.25 ml | C(CCC)[Li]
reactant | 1-adamantyl methyl ketone | 11.0 mmol, 1.96 g | CC(=O)C12CC3CC(CC(C1)C3)C2 | C12H18O
reactant | 3-pyridinecarboxaldehyde | 10.0 mmol, 0.94 ml | N1=CC(=CC=C1)C=O | C6H5NO
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 12 ml | C1CCOC1 | C4H8O
product | trans-1-(1-Adamantyl)-3-(3-pyridyl)-2-propen-1-one | 1.87 g, 70% | C12(CC3CC(CC(C1)C3)C2)C(\C=C\C=2C=NC=CC2)=O | C18H21NO
